US07572809B2
e) Preparation of [1-Chloro-6-methoxy-7-(2-methoxy-ethoxy)-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine
A mixture of 6-Methoxy-7-(2-methoxy-ethoxy)-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-1-ol (1.0 g, 1.45 mmol) in POCl3 (20 ml) was sealed in 2 microwave process vial (20 ml). The mixture was heated at 160° C. for 30 minutes under microwave irradiation. After removal of excess solvent, the residue was poured into ice-water, neutralized by 2M NaOH, extracted by EtOAc. The organic layer was concentrated and the residue was purified by flash column chromatography to give product as solid (0.33 g, 62.7%). LC-MS: m/e 363 (MH+).

reactant | 6-Methoxy-7-(2-methoxy-ethoxy)-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-1-ol | 1.45 mmol, 1.0 g | COC=1C=C2C=C(N=C(C2=CC1OCCOC)O)NC1=NNC(=C1)C | C17H20N4O4
reactant | POCl3 | 20 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | [1-Chloro-6-methoxy-7-(2-methoxy-ethoxy)-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine | 0.33 g, 62.7% | ClC1=NC(=CC2=CC(=C(C=C12)OCCOC)OC)NC1=NNC(=C1)C | C17H19ClN4O3
